US07176242B2
3-{[[2-(Diethylamino)ethyl](methyl)amino]methyl}-N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-5-methylbenzamide trihydrochloride
To a stirred solution of 3-{[[2-(diethylamino)ethyl](methyl)amino]methyl}-5-methylbenzoic acid (267 mg, 0.959 mmol), (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol prepared by the method of EXAMPLE SP-272 (391 mg, 0.959 mmol), HOBt (129 mg, 0.959 mmol), and N,N-diisopropylethylamine (496 mg, 3.84 mmol) in methylene chloride (5 mL) is added EDC (331 mg, 1.73 mmol). The reaction mixture is stirred overnight and then partitioned between ethyl acetate and water. The organic layer is washed with 1 N hydrochloric acid, saturated sodium bicarbonate, and brine, dried (sodium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 9:1:1 methylene chloride/methanol/ammonium hydroxide) gives the title compound. ESI MS m/z 595.4 [M+H]+.

reactant | 3-{[[2-(diethylamino)ethyl](methyl)amino]methyl}-5-methylbenzoic acid | 0.959 mmol, 267 mg | C(C)N(CCN(C)CC=1C=C(C(=O)O)C=C(C1)C)CC | C16H26N2O2
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol | N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F | C19H24F2N2O
reactant | HOBt | 0.959 mmol, 129 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N,N-diisopropylethylamine | 3.84 mmol, 496 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | EDC | 1.73 mmol, 331 mg
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-{[[2-(Diethylamino)ethyl](methyl)amino]methyl}-N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-5-methylbenzamide trihydrochloride | Cl.Cl.Cl.C(C)N(CCN(C)CC=1C=C(C(=O)N[C@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)CC2=CC(=CC(=C2)F)F)C=C(C1)C)CC | InChI=1S/C35H48F2N4O2.3ClH/c1-6-26-10-9-11-27(16-26)22-38-23-34(42)33(20-28-18-31(36)21-32(37)19-28)39-35(43)30-15-25(4)14-29(17-30)24-40(5)12-13-41(7-2)8-3;;;/h9-11,14-19,21,33-34,38,42H,6-8,12-13,20,22-24H2,1-5H3,(H,39,43);3*1H/t33-,34+;;;/m0.../s1
